US08669208B2
2,2-Dimethyl-propionic acid N′-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-hydrazide
Pivalic anhydride (0.687 g, 3.69 mmol) was added dropwise to a stirred solution of 2,2,7-trifluoro-6-hydrazinyl-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (the product of Step 1.7 above, 1.0 g, 3.69 mmol) in dichloromethane at room temperature under nitrogen. The resulting mixture was stirred at room temperature for 1 hour, by which time TLC analysis indicated that the reaction was complete. The reaction mixture was diluted with dichloromethane, and washed with 1N aqueous hydrochloric acid. The aqueous layer was extracted with dichloromethane, and the combined organic phases were dried over anhydrous sodium sulfate and evaporated in vacuo to yield 1.55 g of crude product, which was used without further purification in the following step.

reactant | Pivalic anhydride | 3.69 mmol, 0.687 g | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | 2,2,7-trifluoro-6-hydrazinyl-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | FC1(C(N(C2=C(O1)C=C(C(=C2)NN)F)CC#C)=O)F | C11H8F3N3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-Dimethyl-propionic acid N′-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-hydrazide | 1.55 g | FC1(OC2=C(N(C1=O)CC#C)C=C(C(=C2)F)NNC(C(C)(C)C)=O)F | C16H16F3N3O3
